US04131674
Cyclohexyl isocyanate (1.38 g.) is added to a suspension of 6-(7-chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (3.12 g.) in anhydrous acetonitrile (60 cc.) in the presence of triethylamine (1 cc.), and the reaction mixture is heated at the reflux temperature for 13 hours. After cooling, the insoluble product is filtered off and washed successively with acetonitrile (2 × 10 cc.) and diisopropyl ether (2 × 20 cc.). It is then dissolved in methylene chloride (300 cc.) and the solution obtained is stirred for 15 minutes with 1N sodium hydroxide solution (50 cc.). The organic layer is decanted, washed with water (2 × 50 cc.), dried over anhydrous sodium sulphate in the presence of decolourising charcoal, filtered and then evaporated to dryness under reduced pressure. The residue is recrystallised from acetonitrile (95 cc.) and the product obtained is heated for 10 minutes with ethanol (65 cc.) at the reflux temperature. The insoluble product is then isolated from the boiling solution by filtration, after which it is washed with boiling ethanol (2 × 10 cc.). After drying, 6-(7-chloro-1,8-naphthyridin-2-yl)-5-cyclohexylaminocarbonyloxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (1.8 g.), melting at 264° C., is obtained.

reactant | Cyclohexyl isocyanate | 1.38 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | 6-(7-chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 3.12 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CN=C2C1O)=O | C14H8ClN5O2
reactant | triethylamine | 1 cc | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N, 50 cc | [OH-].[Na+]
solvent | acetonitrile | 60 cc | C(C)#N | C2H3N
solvent | ethanol | 65 cc | C(C)O | C2H6O
product | 6-(7-chloro-1,8-naphthyridin-2-yl)-5-cyclohexylaminocarbonyloxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 1.8 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CN=C2C1OC(=O)NC1CCCCC1)=O | C21H19ClN6O3
